* C:\Users\nicola\Documents\git\AnalogSynth\VCO\Simulation\VCO.asc
Q1 N006 N006 -Ve 0 2N3904
Q2 N007 N006 -Ve 0 2N3904
R1 N006 N001 100k
V1 +Ve 0 15
V3 N001 0 -14
XU1 0 N005 +Ve -Ve N003 LT1001
C1 +Ve N007 1n
V2 0 -Ve 15
R2 N005 N004 470k
XU2 N007 N004 +Ve -Ve N004 LT1001
C2 N005 0 4n7
D1 N003 N007 D
C3 N004 Out 10µ
R3 Out 0 100k
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 1336ms 1190mS uic
.lib LTC.lib
.backanno
.end
